US04943582
trans-3,4-Dihydro-2,2,6-trimethyl-4-(2-oxopyrrolidinyl)-2H-1-benzopyran-3-ol (E4)
2-Pyrrolidone (1.02 g) was added to a suspension of sodium hydride (0.3 g, 80% dispersion in oil) in dry dimethyl sulphoxide (20 ml) under nitrogen at room temperature, and the mixture stirred for 1 h. A solution of 3,4-epoxy-3,4-dihydro-2,2,6-trimethyl-2H-1-benzopyran in dry dimethyl sulphoxide (10 ml) was then added, and the reaction mixture stirred for an additional 16 h. Cautious addition of water and extraction via ethyl acetate gave a crude product (1.84 g) which was chromatographed on silica gel and eluted with 60°-80° C. petroleum ether-ethyl acetate mixtures to give a foam (0.7 g) which was recrystallised from 60°-80° C. petroleum ether-ethyl acetate (0.53 g). Two further recrystallizations from ethyl acetate-pentane gave the analytical sample of the title compound mp 187°-188° C.

reactant | 2-Pyrrolidone | 1.02 g | N1C(CCC1)=O | C4H7NO
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | 3,4-epoxy-3,4-dihydro-2,2,6-trimethyl-2H-1-benzopyran | O1C2C(OC3=C(C21)C=C(C=C3)C)(C)C | C12H14O2
reactant | water | O | H2O
solvent | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-3,4-Dihydro-2,2,6-trimethyl-4-(2-oxopyrrolidinyl)-2H-1-benzopyran-3-ol | 0.7 g | CC1(OC2=C([C@H]([C@@H]1O)N1C(CCC1)=O)C=C(C=C2)C)C | C16H21NO3
